US04226775
1-(3-Acetylthio-3-benzoyl-2-methylpropionyl)-L-proline
To a suspension of 0.47 g of potassium thioacetate in 10 ml. of ethanol is added 1.25 g. of 1-(3-benzoyl-3-bromo-2-methylpropionyl)-L-proline (Example 11, 3-bromo derivative of isomer A). The mixture is stirred for 18 hours, the solvent is removed in vacuo and the residue is partitioned between dichloromethane and water. The organic layer is washed with water, then sodium chloride solution and dried over magnesium sulfate. The solvent is removed in vacuo giving a yellow glass which is dissolved in 10 ml. of ethanol. A 0.47 g. portion of potassium thioacetate is added and the above procedure is repeated giving a yellow glass. This glass is purified by chromatography on a silica gel column with ethyl acetate-hexane-acetic acid (75:25:2) giving 0.28 g. of the desired product as a yellow glass.

reactant | potassium thioacetate | 0.47 g | C(C)(=S)[O-].[K+]
reactant | 1-(3-benzoyl-3-bromo-2-methylpropionyl)-L-proline | C(C1=CC=CC=C1)(=O)C(C(C(=O)N1[C@H](C(=O)O)CCC1)C)Br | C16H18BrNO4
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Acetylthio-3-benzoyl-2-methylpropionyl)-L-proline | C(C)(=O)SC(C(C(=O)N1[C@H](C(=O)O)CCC1)C)C(C1=CC=CC=C1)=O | C18H21NO5S
